US08865704B2
3-[trans-4-(4-Isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-6-phenyl-dihydro-pyrimidine-2,4-dione
A solution of 3-amino-N-[trans-4-(4-isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-3-phenyl-propionamide (0.13 g, 0.29 mmol) and 1,1-carbonyldiimidazole (0.10 g, 0.58 mmol) in CH3CN was irradiated with microwave at 100° C. (250 watt) for 10 minutes. The solvent was removed under reduced pressure and the residue was washed with H2O and then with diethylether, affording 31 mg of the titled compound (22% yield).

reactant | 3-amino-N-[trans-4-(4-isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-3-phenyl-propionamide | 0.29 mmol, 0.13 g | NC(CC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C(C)C)=O)C1=CC=CC=C1 | C25H38N4O3
reactant | diethylether | C(C)OCC | C4H10O
solvent | CH3CN | CC#N | C2H3N
product | 3-[trans-4-(4-Isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-6-phenyl-dihydro-pyrimidine-2,4-dione | 31 mg, 22% yield | C(C(C)C)(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(NC(CC1=O)C1=CC=CC=C1)=O | C26H36N4O4
